US06727261B2
(i) 2-Amino-9,10-dimethoxy-1,6,7,11b-tetrahydro-4H-pyrido[2,1-a]isoquinoline-3-carboxylic acid ethyl ester
A solution of 3-(1-ethoxycarbonylmethyl-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-propionic acid ethyl ester (Helv. Chim. Acta 1958, 41, 119; 17.1 g, 45.0 mmol) in cyclohexane (340 mL) was treated with sodium ethylate (9.67 g, 135 mmol) and heated in an oil bath, and the ethanol formed during the reaction was removed by distillation over 30 min, while more cyclohexane was added in order to keep the reaction volume constant. After cooling the reaction mixture was neutralized with acetic acid and concentrated. The residue was dissolved in dichloromethane/water 1:1 and brought to pH 10 with concentrated ammonium hydroxide solution. The organic layer was separated, dried (MgSO4), and evaporated. The residue was dissolved in methanol (270 mL) and ammonium acetate (42.3 g, 548 mmol) was added. After stirring at r.t. for 90 min, the reaction mixture was evaporated and the residue partitioned between dichloromethane and 1 M aq. sodium hydroxide solution. The organic layer was dried (MgSO4), evaporated, and chromatographed (SiO2, CH2Cl2/MeOH/NH4OH 97.5:2.5:0.25) to afford the title compound (9.90 g, 66%). Light yellow solid, MS (ISP) 333.2 (M+H)+.

reactant | 3-(1-ethoxycarbonylmethyl-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-propionic acid ethyl ester | 45.0 mmol, 17.1 g | C(C)OC(CCN1C(C2=CC(=C(C=C2CC1)OC)OC)CC(=O)OCC)=O | C20H29NO6
reactant | sodium ethylate | 135 mmol, 9.67 g | CC[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium acetate | 548 mmol, 42.3 g | C(C)(=O)[O-].[NH4+]
solvent | cyclohexane | 340 mL | C1CCCCC1 | C6H12
product | 2-Amino-9,10-dimethoxy-1,6,7,11b-tetrahydro-4H-pyrido[2,1-a]isoquinoline-3-carboxylic acid ethyl ester | 9.90 g, 66% | C(C)OC(=O)C1=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)C1)N | C18H24N2O4
